US05110956
100 g of 2-(1,3-benzodioxol-5-yl)ethanethiol and 75.1 g of bromoacetic acid were dissolved in 1 l of ethanol. A solution of 44 g of sodium hydroxide in 125 ml of water and then 2 l of ethanol were added thereto. The mixture was heated under reflux for 3 h. The reaction mixture was concentrated under reduced pressure. 2.5 l of water was added thereto. The mixture was made alkaline with a 1N sodium hydroxide solution, washed with 35% hydrochloric acid, extracted with ethyl acetate, washed with water four times and dried over sodium sulfate. The solvent was distilled off under reduced pressure to obtain 121 g of [{2-(1,3-benzodioxol-5-yl)ethyl}thio]acetic acid in the form of a faint yellow oil.

reactant | 2-(1,3-benzodioxol-5-yl)ethanethiol | 100 g | O1COC2=C1C=CC(=C2)CCS | C9H10O2S
reactant | bromoacetic acid | 75.1 g | BrCC(=O)O | C2H3BrO2
reactant | sodium hydroxide | 44 g | [OH-].[Na+]
solvent | ethanol | 1 l | C(C)O | C2H6O
solvent | water | 125 ml | O | H2O
solvent | ethanol | 2 l | C(C)O | C2H6O
product | [{2-(1,3-benzodioxol-5-yl)ethyl}thio]acetic acid | 121 g | O1COC2=C1C=CC(=C2)CCSCC(=O)O | C11H12O4S
